US09034877B2
Procedure A. (7-Methoxy-1,2,3,4-tetrahydro-naphthalen-2-yl)-propyl-amine (32a)
7-Methoxy-2-tetralone (6.21 g, 35.2 mmol) and acetic acid (5.3 ml, 105.6 mmol) were dissolved in dichloroethane (100 ml) and cooled to 0° C. Propyl amine (5.7 ml, 70.4 mmol) was added and the mixture was stirred under a N2 atmosphere for 30 min. NaCNBH3 (5.5 g, 80.8 mmol) in anhydrous MeOH (15 ml) was then added to the mixture and allowed to stir overnight at ambient temperature. The volatiles were then evaporated and the mixture was partioned between ethyl acetate and 1 M NaOH. The organic layer was separated, dried (Na2SO2), filtered, and concentrated. The crude residue was then taken up in EtOAc, at which time ethereal HCl was added, and the material evaporated to dryness. The crude salt was dissolved in a minimum volume of MeOH, and precipitated by the gradual addition of diethyl ether. The salt was collected via filtration and dried to yield 5.09 g (64%, free base) and used in the subsequent transformations. 1H NMR (free base) (400 MHz, CDCl3) 0.91-0.95 (t, 3H, J=7.6 Hz), 1.38 (bs, 1H), 1.48-1.60 (m, 3H), 2.04-2.09 (m, 1H), 2.54-2.62 (m, 2H), 2.67-2.71 (t, 3H, J=7.6 Hz), 2.88-2.92 (m, 2H), 2.97-3.04 (m, 1H), 3.81 (s, 3H), 6.60-6.61 (dd, 1H, J=1.6 Hz), 6.65-6.78 (m, 1H), 6.95-6.98 (d, 1H, J=8.8 Hz).

reactant | 7-Methoxy-2-tetralone | 35.2 mmol, 6.21 g | COC1=CC=C2CCC(CC2=C1)=O | C11H12O2
reactant | acetic acid | 105.6 mmol, 5.3 ml | C(C)(=O)O | C2H4O2
reactant | Propyl amine | 70.4 mmol, 5.7 ml | C(CC)N | C3H9N
reactant | NaCNBH3 | 80.8 mmol, 5.5 g | [BH3-]C#N.[Na+]
solvent | dichloroethane | 100 ml | ClC(C)Cl | C2H4Cl2
solvent | MeOH | 15 ml | CO | CH4O
product | (7-Methoxy-1,2,3,4-tetrahydro-naphthalen-2-yl)-propyl-amine | COC1=CC=C2CCC(CC2=C1)NCCC | C14H21NO
